US05814648
To a vigorously stirred solution of 3-iodobenzoyl chloride (16.79 g, 63 mmol) in dichloromethane (300 ml) was rapidly added a solution of (R)-(-)-2-phenylglycinol (8.64 g, 63 mmol) in dichloromethane (50 ml). The reaction mixture was stirred for 3 hours and crude product collected by filtration. Recrystallization from isopropyl alcohol gave (+)-2-(3-iodobenzamido)-2(R)-phenylethan-1-ol as white needles (14.74 g, 64%).

reactant | 3-iodobenzoyl chloride | 63 mmol, 16.79 g | IC=1C=C(C(=O)Cl)C=CC1 | C7H4ClIO
reactant | (R)-(-)-2-phenylglycinol | 63 mmol, 8.64 g | C1(=CC=CC=C1)[C@@H](N)CO | C8H11NO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (+)-2-(3-iodobenzamido)-2(R)-phenylethan-1-ol | 14.74 g, 64% | IC=1C=C(C(=O)N[C@@H](CO)C2=CC=CC=C2)C=CC1 | C15H14INO2
